US05684032
Preparation of 1-(4-benzyloxybenzyl)-3-phenylindole-2-carboxylic acid
Following the procedure of Example 1(a)-1(d), except substituting ethyl indole-2-carboxylate for ethyl 5-benzyloxyindole-2-carboxylate in step (a) and 4-benzyloxybenzyl chloride for 6-chloropiperonyl chloride in step (c), the title compound was prepared (39% overall). mp 193°-194° C.

reactant | ethyl 5-benzyloxyindole-2-carboxylate | C(C1=CC=CC=C1)OC=1C=C2C=C(NC2=CC1)C(=O)OCC | C18H17NO3
reactant | 4-benzyloxybenzyl chloride | C(C1=CC=CC=C1)OC1=CC=C(CCl)C=C1 | C14H13ClO
reactant | 6-chloropiperonyl chloride | C1OC2=C(O1)C=C(C(=C2)CCl)Cl | C8H6Cl2O2
product | 1-(4-benzyloxybenzyl)-3-phenylindole-2-carboxylic acid | C(C1=CC=CC=C1)OC1=CC=C(CN2C(=C(C3=CC=CC=C23)C2=CC=CC=C2)C(=O)O)C=C1 | C29H23NO3
